Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Back pain and R flank pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ previously healthy male who was seen at ___ 2 days 
ago after being hit by a back hoe and he launched into a ditch 
head first striking head. Negative CT head/neck and CT torso 
showing nondisplaced fracture of the L1-L2 left transverse 
process. No report of rib fractures. Pt left and attempted pain 
control at home but went into ___ today with worsening right 
sided pain, difficulty w/ deep inspiration. Mild midline lumbar 
pain, no numbness/tingling or weakness. No urinary/bowel 
incontinence. He was unable to lay in bed and spent two days in 
a recliner. He reports ___ horse in his R thigh. Has been 
constipated since starting pain meds. No fevers, coughs, chest 
pain or sob. Mild soreness of his head at the site of the R 
temple sutred laceration  ? no vision changes but he has noticed 
that the vision in his L eye is blurred by he is not sure if 
this is new. Not on blood thinners. Smokes ___. 
In ER: (Triage Vitals:(0 |98.0 |1 ___ |18 |96% RA) 
Meds Given: 
___ 18:11 IV Morphine Sulfate 4 mg ___  
___ 20:27 IV Morphine Sulfate 4 mg ___  
___ 20:39 PO/NG Docusate Sodium 100 mg ___  
___ 20:39 PO Magnesium Citrate 5 mL ___  
___ 20:39 IH Albuterol 0.083% Neb Soln 1 NEB 
___  
___ 20:39 IH Ipratropium Bromide Neb 1 NEB ___ 
 
___ 20:39 IVF 1000 mL LR 500 mL ___ 
Radiology Studies:
consults called.
.
PAIN SCALE: ___ -> ___ pain when he twists or moves in his R 
flank, the pain in his back is a dull ___ pain 
REVIEW OF SYSTEMS:
 CONSTITUTIONAL:  As per HPI and decreased appetitis
 HEENT:  [+] Per HPI
 RESPIRATORY:  [X] All normal
 CARDIAC:  [X] All normal
 GI:  [+]decreased appetite and + constipation
 GU:  [X] All normal
 SKIN:  [X] All normal
 MUSCULOSKELETAL:  [+] Per HPI
 NEURO:  [+] Per HPI
 ENDOCRINE:  [X] All normal
 HEME/LYMPH:  [X]  All normal
 PSYCH:  [X] All normal

All other systems negative except as noted above
 
Past Medical History:
S/p coiling of brain aneurysm in ___
S/p b/l hernia repair in ___ at ___
OSTEOARTHRITIS, LOCALIZED PRIMARY - KNEE 
INTRACRAN HEMORRHAGE - SUBARACHNOID 
OBESITY  
GERD (gastroesophageal reflux disease) 
Duodenitis 
Colorectal polyps 
Colon cancer screening 
Melanoma in situ 

 
Social History:
___
Family History:
His father died of cancer at age ___. He thinks it may have been 
prostate cancer. His mother died in her ___ with complications 
from DM.
 
Physical Exam:
Vitals:  T 97.7 P 66  BP 135/83  RR 16  SaO2 = 96% on RA 
CONS: He is in a great deal of pain with movement
HEENT: ncat anicteric MMM    
CV: s1s2 rrr, 1+ SEM at ___ no m/r/g  
 RESP: b/l ae no w/c/r  
 GI: +bs, soft, NT, ND, no guarding or rebound  
 back:  tender 
 GU:  no dysuria
RECTAL EXAM: Preserved rectal tone, no saddle anesthesia
 MSK:no c/c/e 2+pulses  
 SKIN: no rash  
 NEURO: face symmetric speech fluent, ___ strength in b/l upper 
and lower extremities. 
 PSYCH: calm, cooperative  
LAD:  no cervical LAD

Exam on discharge:
Vitals: T: 97.9 BP: 137/84 HR: 60 R: 18 O2: 95%RA
Gen: Appears comfortable, pleasant, moves around easily
HEENT: no scleral icterus
Abd: soft, NT, ND, no rebound or guarding
Extrem: no edema 
GU: no foley
Skin: no rash
Neuro: A+Ox3, speech fluent, able to stand and ambulate without 
difficulty

 
Pertinent Results:
___ 02:40AM URINE  HOURS-RANDOM
___ 02:40AM URINE  HOURS-RANDOM
___ 02:40AM URINE  UHOLD-HOLD
___ 02:40AM URINE  GR HOLD-HOLD
___ 02:40AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 02:40AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 02:40AM URINE  RBC-2 WBC-0 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 02:40AM URINE  MUCOUS-RARE
___ 06:19PM   GLUCOSE-87 UREA N-16 CREAT-1.2 SODIUM-141 
POTASSIUM-4.8 CHLORIDE-105 TOTAL CO2-25 ANION GAP-16
___ 06:19PM   estGFR-Using this
___ 06:19PM   ALT(SGPT)-16 AST(SGOT)-18 ALK PHOS-42 TOT 
BILI-0.7
___ 06:19PM   ALT(SGPT)-16 AST(SGOT)-18 ALK PHOS-42 TOT 
BILI-0.7
___ 06:19PM   LIPASE-113*
___ 06:19PM   WBC-9.6 RBC-4.79 HGB-14.4 HCT-44.1 MCV-92 
MCH-30.1 MCHC-32.7 RDW-13.4 RDWSD-45.5
___ 06:19PM   WBC-9.6 RBC-4.79 HGB-14.4 HCT-44.1 MCV-92 
MCH-30.1 MCHC-32.7 RDW-13.4 RDWSD-45.5
___ 06:19PM   NEUTS-50.4 ___ MONOS-9.9 EOS-2.4 
BASOS-0.5 IM ___ AbsNeut-4.84 AbsLymp-3.51 AbsMono-0.95* 
AbsEos-0.23 AbsBaso-0.05
___ 06:19PM   PLT COUNT-235
=================================
CXR: IMPRESSION: 
1. Clear lungs. 
2. No rib fractures identified. If there are focal areas of 
pain, dedicated 
=========================
___T ___
IMPRESSION:
     Beam hardening artifact associated with a suprasellar 
metallic
     density, likely an aneurysm clip.  No intra cerebral 
hemorrhage.
      
     Right frontal soft tissue swelling; no displaced calvarial 
fracture
==============
___ NECK CT
 
     IMPRESSION:
     Normal alignment of the cervical spine, with straightening. 
 No acute
     fractures.  Degenerative disc disease predominantly at 
C5-C6 and
     C6-C7.
=============
CT TORSO WITH IV CONTRAST
IMPRESSION:
     No free intraperitoneal fluid.  No pleural effusion.  No 
rib fracture.
      
     No solid organ injury.
      
     Nondisplaced fracture of the L1-L2 left transverse process.
      
CT head ___ ___
IMPRESSION:
1. No evidence of acute intracranial abnormality on noncontrast 
head CT. 
Specifically no intracranial hemorrhage.
2. No calvarial fracture is visualized.
3. 2 mm thick right frontal subgaleal hematoma with associated 
subcutaneous
emphysema and overlying skin laceration.
 
Brief Hospital Course:
___ year old male with h/o tobacco use who presents s/p traumatic 
injury with a back hoe with severe R flank pain and back pain 
following recent work related trauma. 

# Low back pain, acute fractures of the L1-L2 transverse 
processes: 
Imaging and labs reassuring in terms of ruling out other 
pathologies. The patient was seen by ACS and spine in the 
emergency department who recommended conservative management and 
pain control. The patent was placed on standing tylenol, 
ibuprofen, lidoderm patch, tizanidine and tramadol with good 
pain control. He was able to ambulate without difficulty or 
increasing pain prior to discharge. The patient has close follow 
up scheduled with his PCP for suture removal.

#Constipation
Continued on bowel regimen while hospitalized with good effect.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. HYDROcodone-Acetaminophen (5mg-325mg) ___ TAB PO Q8H:PRN pain 


 
Discharge Medications:
1. Acetaminophen 1000 mg PO TID 
2. Docusate Sodium 100 mg PO BID 
3. Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine 5 % apply 3 patches to affected area on 12hours 
off 12hours Disp #*30 Patch Refills:*0
4. Polyethylene Glycol 17 g PO DAILY 
5. Senna 8.6 mg PO DAILY 
6. Tizanidine 4 mg PO TID 
RX *tizanidine 4 mg 1 capsule(s) by mouth three times a day Disp 
#*30 Capsule Refills:*0
7. TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 25 tablet(s) by mouth Q6hrs as needed for 
pain Disp #*15 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Low back pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized with severe back pain related to an injury 
that took place at work this week. You were treated with several 
pain medications and your pain improved. You should follow up 
with your primary care physician for removal of your stiches. 
 
Followup Instructions:
___